** sch_path: /home/toind/work/vco_adc2/xschem/lib/vco_cc_inv.sch
.subckt vco_cc_inv VCCA VPWR outp inp inn outn GND VGND
*.PININFO outp:O inn:I VGND:B outn:O inp:I VPWR:B VCCA:B GND:B
x1 VPWR VCCA outp GND VGND inp vco_main_inv
x2 VPWR VCCA outn GND VGND inn vco_main_inv
x3 VPWR VCCA outp outn GND VGND vco_aux_inv
x4 VPWR VCCA outn outp GND VGND vco_aux_inv
.ends

* expanding   symbol:  vco_main_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib/vco_main_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/vco_main_inv.sch
.subckt vco_main_inv VPWR VCCA Y GND VGND A
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=3.65 W=8 nf=2 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=3.65 W=10 nf=2 m=1
.ends


* expanding   symbol:  vco_aux_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib/vco_aux_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/vco_aux_inv.sch
.subckt vco_aux_inv VPWR VCCA A Y GND VGND
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=3.65 W=4 nf=1 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=3.65 W=5 nf=1 m=1
.ends

.end
